US04775674
N-Cycloheptyl-N-methyl-4-[(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]butanamide
This compound obtained as the hydrochloride salt, m.p. 180°-182° C., was prepared analogous to Example 15 from 4-[(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]butyric acid and N-methylcycloheptylamine.

reactant | 4-[(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]butyric acid | O=C1NC=2C(=NC=3C=CC(=CC3C2)OCCCC(=O)O)N1 | C14H13N3O4
reactant | N-methylcycloheptylamine | CNC1CCCCCC1 | C8H17N
product | N-Cycloheptyl-N-methyl-4-[(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]butanamide | C1(CCCCCC1)N(C(CCCOC1=CC=2C=C3C(=NC2C=C1)NC(N3)=O)=O)C | C22H28N4O3
